US04666637
Fed into a flask was 524 g (4.5 moles) of chlorosulfonic acid, and then 169 g (1.5 moles) of chlorobenzene was dropwise added thereto while cooling the system to maintain it at a temperature of not more than 60° C. It took about 30 minutes to complete the dropwise addition, and then the system was kept at 60° C. for 2 hours. Then, the reaction product thereby obtained was dropwise added to 140 g of water at a temperature of from 40° to 60° C. for 20 minutes. After the completion of the dropwise addition, the reaction was aged at a temperature of from 60° to 65° C. for 20 minutes, and then dried air was continuously blown into the reaction product to drive off the remaining hydrogen chloride from the system. Thereafter, the reaction product was transferred to a dropping funnel which was kept warm, and the liquid phase separation was carried out at a temperature of 65° C. The lower layer was a sulfuric acid layer, from which 424 g of sulfuric acid having a concentration of 73% was recovered. The upper layer was a chlorobenzene sulfochloride layer, from which 289 g of chlorobenzene sulfochloride having a purity of 90% was obtained. The yield based on the feed chlorobenzene was 82%.

reactant | chlorosulfonic acid | 4.5 moles, 524 g | ClS(=O)(=O)O | ClHO3S
reactant | chlorobenzene | 1.5 moles, 169 g | ClC1=CC=CC=C1 | C6H5Cl
solvent | water | 140 g | O | H2O
product | chlorobenzene sulfochloride | 289 g | S(=O)(=O)(O)Cl.ClC1=CC=CC=C1 | InChI=1S/C6H5Cl.ClHO3S/c7-6-4-2-1-3-5-6;1-5(2,3)4/h1-5H;(H,2,3,4)
